US07956191B2
To a solution of 3-fluoroisonicotinic acid (5.0 g, 35.33 mmol) in acetic acid (25 ml) was added hydrogen peroxide (6 ml). The reaction mixture was stirred at 70-80° C. overnight. The solvent was removed to obtain 5.5 g of 3-fluoroisonicotinic acid 1-oxide in quantitative yield.

reactant | 3-fluoroisonicotinic acid | 35.33 mmol, 5.0 g | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | hydrogen peroxide | 6 ml | OO | H2O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3-fluoroisonicotinic acid 1-oxide | 5.5 g, quantitative yield | FC1=C(C(=O)O)C=C[N+](=C1)[O-] | C6H4FNO3
